Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
Scheduled Chemotherapy Desensitization
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of Recurrent ovarian cancer who presents for C4 of
carboplatin/paclitaxel and paclitaxel desensitization.

Pt reports cough with recent sore throat. Noted it was dry,
minimal, and resolving. She denied a/w fever or chills. Reported
that she otherwise was feeling fine, and didn't think it should
interfere with her chemotherapy. She reported tolerating normal
diet with normal stooling/voiding
 
Past Medical History:
As per last outpatient ___ clinic note:
- ___ Presented with abdominal bloating and work-up was
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles
- ___ Asymptomatic rise in CA125
- ___ Doxil severe anaphylactic reaction requiring
hydrocortisone/benadryl/epinephrine with observation in the ER. 
- ___ C1 Carboplatin/Paclitaxel
- ___ PET-CT with resolution of mediastinal, mammary
lymphadenopathy, significant decrease in size and FDG avidity of
hepatic dome lesion 

PAST MEDICAL HISTORY:  
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs

 
Social History:
___
Family History:
- Father ___ ca
- P-aunt breast and ovarian cancers
- Mother melanoma
- MGM colon ca
- maternal cousin- breast BRCA2+ 
 
Physical Exam:
Admit/Discharge (unchanged)
GENERAL: sitting in bed, husband at bedside, comfortable, NAD
EYES: PERRLA, anicteric
HEENT:  OP clear, MMM
NECK:  supple, normal ROM
LUNGS:  CTA b/l, no wheezes/rales/rhonchi, normal RR, no incr
WOB, no cough during interview/exam
CV:  RRR no m/r/g, normal distal perfusion without edema
ABD: soft, NT, ND normoactive BS, no rebound or guarding
GENITOURINARY: no foley or suprapubic tenderness
EXT:  warm, dry, no deformity, normal muscle bulk
SKIN:  warm, dry, no rash
NEURO:  AOx3, fluent speech
ACCESS: PORT dressing c/d/i
 
Pertinent Results:
CXR: 
In comparison with the study of ___, the nodular 
opacification at the right base is not visualized on the frontal 
views presented.  This could represent a more elevated position 
of the right hemidiaphragm obscuring a this process.  
Unfortunately, no lateral view was obtained. 
At the resolution limits of plain radiography, there is no 
evidence of pulmonary or skeletal metastasis.  There is a right 
IJ Port-A-Cath with its tip at the cavoatrial junction or upper 
right atrium. 

 
Brief Hospital Course:
___ PMH of recurrent ovarian cancer who presents for C4 of 
carboplatin/paclitaxel and
paclitaxel desensitization. She tolerated treatment well without 
issue. She was discharged with previously scheduled outpatient 
f/u appts. Patient did not need any prescriptions on discharge. 

Of note, patient described cough on admission which was dry, 
minimal, and resolving, without a/w fever/chills. Out of 
abundance of precaution given active chemo treatment, CXR 
performed, was without active process but was not ideal image. 
Patient to monitor symptoms and contact outpatient team if 
worsens in any way. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 4 mg PO ASDIR 
2. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
4. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
5. Valsartan 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Cetirizine 10 mg PO ASDIR 

 
Discharge Medications:
1.  Cetirizine 10 mg PO ASDIR  
2.  Dexamethasone 4 mg PO ASDIR  
3.  LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
 
4.  Multivitamins 1 TAB PO DAILY  
5.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
6.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
7.  Valsartan 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Encounter for chemotherapy
# Hypersensitivity to paclitaxel
# Ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled 
chemotherapy with desensitization protocol, which you tolerated 
well. 

Please take the dexamethasone and compazine twice daily for the 
next three days. You should follow up with Dr. ___ as 
previously planned. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___